US06888032B2
The general procedure in example 39 was followed. 5-Iodo-m-xylene (144 μL, 1.0 mmol), Methyl thiosalicylate (138 μL, 1.0 mmol), CuI (10 mg, 0.05 mmol), K2CO3 (276 mg, 2.0 mmol), and DME (1.0 mL) were used to obtain the methyl 2-(3,5-dimethylphenyl)sulfanylbenzoate (236 mg, 86% yield) as colorless liquid. Column chromatographic solvent (hexane/ethyl acetate 20/1). Rf=0.5 (hexane/ethyl acetate=10/1). 1H NMR (CDCl3, 300 MHz) δ 7.95 (dd, 1 H, J=1.8 Hz, 8.1 Hz), 7.19-7.25 (m, 1 H), 7.17 (s, 2 H), 7.08 (dt, 1 H, J=1.2 Hz, 7.8 Hz), 7.03 (s, 1 H), 6.81 (dd, 1 H, J=0.9 Hz, 8.1 Hz), 3.94 (s, 3 H), 2.32 (s, 6 H). 13C NMR (CDCl3, 75 MHz) δ 170.0, 144.0, 139.6, 133.4, 132.5, 131.2, 127.4, 126.5, 124.2, 117.1, 52.5, 21.6. IR (neat, cm−1) 2950, 2916, 1712, 1711. MS (EI) m/z (relative intensity) 272 (100), 197 (70). HRMS (EI), Cald. for C16H16O2S 272.0866. Found 272.0858.

reactant | 5-Iodo-m-xylene | 1.0 mmol, 144 μL | IC=1C=C(C=C(C1)C)C | C8H9I
reactant | Methyl thiosalicylate | 1.0 mmol, 138 μL | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | DME | 1.0 mL | COCCOC | C4H10O2
product | methyl 2-(3,5-dimethylphenyl)sulfanylbenzoate | 236 mg, 86% yield | CC=1C=C(C=C(C1)C)SC1=C(C(=O)OC)C=CC=C1 | C16H16O2S
